US04684653
2-Amino-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine
In a similar fashion, 2,4-diamino-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine is converted to 2-amino-4-hydroxy-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine, mp >250° C.; NMR (DMSO-d6, 80 MHz) d 2.28 and 2.30 (brs, 3H), 6.77 and 7.06 (brs, 1H), 7.72 (d, 2H, J=8.5 Hz), 7.97 (d, 2H, J=8.5 Hz), 8.27 (d, 1H, J=2.0 Hz), 8.72 (d, 1H, J=2.0 Hz).

reactant | 2,4-diamino-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)C=C(C)C2=CC=C(C=C2)C(=O)O)N | C17H15N5O2
reactant | 2-amino-4-hydroxy-6-[2-(4-carboxyphenyl)prop-1-enyl]pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)C=C(C)C2=CC=C(C=C2)C(=O)O)O | C17H14N4O3
product | 2-Amino-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)O | C16H12N4O3
